US07285558B2
(b) 3-(2-amino-5-methyl-1,3-thiazol-4-yl)-2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was synthesized by treating tert-butyl 4-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-methyl-1,3-thiazol-2-ylcarbamate with 10% TFA in dichloromethane at room temperature for 5 hours. Mass: 508.13 (M+H).

reactant | tert-butyl 4-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-methyl-1,3-thiazol-2-ylcarbamate | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(N(C(C2=C1C=1N=C(SC1C)NC(OC(C)(C)C)=O)=O)C)=O)CC1CC1 | C29H30ClN7O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2-amino-5-methyl-1,3-thiazol-4-yl)-2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | NC=1SC(=C(N1)C=1N(N=C2N(C(N(C(C21)=O)C)=O)CC2CC2)CC2=CC=NC1=CC=C(C=C21)Cl)C | C24H22ClN7O2S
